US07119122B2
A solution of 4-chloro-2-(3-formyl-2-hydroxyphenoxy)benzonitrile (0.30 g, 1.11 mmol), 2-bromoethanol (0.10 mL, 0.18 g, 1.4 mmol) and cesium carbonate (0.43 g, 1.3 mmol) were heated with stirring in dry DMF (3 mL) at 50° C. After 22 h, 2-bromoethanol (0.19 mL, 0.33 g, 2.7 mmol) was added, and stirring continued for an additional 24 h at 50° C. The reaction mixture was cooled, poured into-water and extracted with ethyl acetate. The ethyl acetate layer was separated, washed with 1N sodium hydroxide solution (3×), water (1×), brine (1×), and dried over MgSO4. After filtration, the solvent was removed in vacuo to yield 4-chloro-2-[3-formyl-2-(2-hydroxyethoxy)phenoxy]benzonitrile (0.29 g, 83%) as a tan oil, which was used without further purification.

reactant | 4-chloro-2-(3-formyl-2-hydroxyphenoxy)benzonitrile | 1.11 mmol, 0.30 g | ClC1=CC(=C(C#N)C=C1)OC1=C(C(=CC=C1)C=O)O | C14H8ClNO3
reactant | 2-bromoethanol | 1.4 mmol, 0.10 mL, 0.18 g | BrCCO | C2H5BrO
reactant | cesium carbonate | 1.3 mmol, 0.43 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-bromoethanol | 2.7 mmol, 0.19 mL, 0.33 g | BrCCO | C2H5BrO
reactant | water | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 4-chloro-2-[3-formyl-2-(2-hydroxyethoxy)phenoxy]benzonitrile | 0.29 g, 83% | ClC1=CC(=C(C#N)C=C1)OC1=C(C(=CC=C1)C=O)OCCO | C16H12ClNO4
